US08012976B2
1H-imidazole-2-carbaldehyde (800 mg, 8.3 mmol), 1-iodopropane (1.7 g, 10 mmol) and potassium carbonate (1.4 g) were added in DMF (30 mL) and the mixture was heated to 50° C. overnight. Then the mixture was evaporated under reduced pressure, and extracted with ethyl acetate (100 mL×4). The combined organic layers were dried over anhydrous sodium sulfate, concentrated to give 1-propyl-1H-imidazole-2-carbaldehyde (1.1 g). LC-MS (ESI) m/z 139 (M+1)+.

reactant | 1H-imidazole-2-carbaldehyde | 8.3 mmol, 800 mg | N1C(=NC=C1)C=O | C4H4N2O
reactant | 1-iodopropane | 10 mmol, 1.7 g | ICCC | C3H7I
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-propyl-1H-imidazole-2-carbaldehyde | 1.1 g | C(CC)N1C(=NC=C1)C=O | C7H10N2O
